US06649648B1
3: Synthesis of Dihydrodaidzein (Compound 1)
To a solution of daidzein (0.657 g, 2.58 mmol) in methanol (60 mL) was added 10% Pd/C (0.657 g) carefully, following by ammonium formate (0.652 g, 10.3 mmol). The mixture was heated up to 50-60° C. and stirred for one hour. The reaction was monitored by TLC (CH2Cl2/EtOAc=7:2 or 70% Et2O/Hexane) and GC. After the reaction complete, the Pd/C was filtered and the filtrate was concentrated, which gave a crude product (0.558 g) of dihydrodaidzein as the major product and the trans/cis isomers of tetrahydrodaidzein as the minor products. The dihydrodaidzein was purified by standard procedures.

reactant | daidzein | 2.58 mmol, 0.657 g | C1=CC(=CC=C1C2=COC=3C=C(C=CC3C2=O)O)O | C15H10O4
reactant | ammonium formate | 10.3 mmol, 0.652 g | C(=O)[O-].[NH4+]
reactant | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
reactant | Et2O Hexane | CCOCC.CCCCCC
solvent | methanol | 60 mL | CO | CH4O
catalyst | Pd/C | 0.657 g | [Pd] | Pd
product | Dihydrodaidzein | 0.558 g | C1C(C(=O)C2=C(O1)C=C(C=C2)O)C3=CC=C(C=C3)O | C15H12O4
